US08258144B2
Ethyl 3-amino-3-(1-(5-fluoro-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)pyrimidin-4-yl)piperidin-4-yl)propanoate
To a solution of ethyl 3-(benzyloxycarbonylamino)-3-(piperidin-4-yl)propanoate (102 mg, 0.305 mmol) and 2,4-dichloro-5-fluoropyrimidine (51 mg, 0.305 mmol) in CH3CN (2 mL), DIEA (0.106 mL, 0.610 mmol) was added. The mixture was stirred at room temperature for 68 h. It was then concentrated in vacuo. The residue was dissolved in nBuOH (3 mL), 6-amino-3,4-dihydroquinolin-2(1H)-one (82 mg, 0.506 mmol) was added. The solution was stirred at 116° C. for 20 h. It was concentrated in vacuo. The residue was dissolved in MeOH (9 mL). To the solution, Pd—C (10%, 40 mg) was added. The mixture was then hydrogenated under balloon hydrogen for 20 h. It was filtered through celite. The filtrate was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (66 mg). MS 457.4 (M+H); UV 211.9, 277.3 nm.

reactant | ethyl 3-(benzyloxycarbonylamino)-3-(piperidin-4-yl)propanoate | 0.305 mmol, 102 mg | C(C1=CC=CC=C1)OC(=O)NC(CC(=O)OCC)C1CCNCC1 | C18H26N2O4
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.305 mmol, 51 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | DIEA | 0.610 mmol, 0.106 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.506 mmol, 82 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | Ethyl 3-amino-3-(1-(5-fluoro-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)pyrimidin-4-yl)piperidin-4-yl)propanoate | 66 mg | NC(CC(=O)OCC)C1CCN(CC1)C1=NC(=NC=C1F)NC=1C=C2CCC(NC2=CC1)=O | C23H29FN6O3
